US04296113
To 4.0 g. (0.015 mole) of N-carbobenzyloxy-4-keto-L-proline are added 20 ml. of hydrogen bromide in acetic acid (30-32%). The mixture is frequently swirled over a period of eight minutes. At the end of this period (effervescence has stopped), the yellow-orange solution is layered over with 250 ml. of ether, triturating the gummy product. The ether is discarded and the resulting tacky solid is triturated with fresh ether and finally with 50 ml. of acetonitrile to give 4-keto-L-proline, hydrobromide as a crystalline solid weighing 2.7 g. (85%), m.p. 153°-155° (dec.,), [α]D26 -49° (c, 1% in water).

reactant | N-carbobenzyloxy-4-keto-L-proline | 0.015 mole | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)=O | C13H13NO5
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-keto-L-proline, hydrobromide | Br.O=C1C[C@H](NC1)C(=O)O | InChI=1S/C5H7NO3.BrH/c7-3-1-4(5(8)9)6-2-3;/h4,6H,1-2H2,(H,8,9);1H/t4-;/m0./s1
